US09034440B2
Into a 500 ml-volume three-neck flask, 34.1 g (0.24 mol) of glycidyl methacrylate, 38.0 g (0.24 mol) of 1-ethoxyethyl methacrylate, 15.6 g (0.12 mol) of 2-hydroxyethyl methacrylate and 300 ml of methyl isobutyl ketone were charged. A catalytic amount of 2,2′-azobis(methyl 2-methylpropionate) was added thereto as a radical polymerization initiator, and polymerization was allowed to proceed at 80° C. for 6 hours in a nitrogen stream. The reaction solution was cooled and then poured in a large amount of heptane to precipitate a polymer. The crystal was collected by filtration and dissolved in diethylene glycol dimethyl ether, and heptane and methyl isobutyl ketone contained in the solution were removed by distillation under reduced pressure to obtain Polymer A2-5 (glycidyl methacrylate/1-ethoxyethyl methacrylate/2-hydroxyethyl methacrylate) as a diethylene glycol dimethyl ether solution.

reactant | glycidyl methacrylate | 0.24 mol, 34.1 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | 1-ethoxyethyl methacrylate | 0.24 mol, 38.0 g | C(C(=C)C)(=O)OC(C)OCC | C8H14O3
reactant | 2-hydroxyethyl methacrylate | 0.12 mol, 15.6 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | 2,2′-azobis(methyl 2-methylpropionate) | N(=NC(C(=O)[O-])(CC)C)C(C(=O)[O-])(CC)C
solvent | heptane | CCCCCCC | C7H16
solvent | methyl isobutyl ketone | 300 ml | C(C(C)C)C(=O)C | C6H12O
product | glycidyl methacrylate 1-ethoxyethyl methacrylate 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OC(C)OCC.C(C(=C)C)(=O)OCCO | InChI=1S/C8H14O3.C7H10O3.C6H10O3/c1-5-10-7(4)11-8(9)6(2)3;1-5(2)7(8)10-4-6-3-9-6;1-5(2)6(8)9-4-3-7/h7H,2,5H2,1,3-4H3;6H,1,3-4H2,2H3;7H,1,3-4H2,2H3
